US05700819
To benzene (10 ml) was added N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester (610 mg, 1.7 mmol) obtained in Example 3-ii) and phosphorus pentasulfide (378 mg, 1.7 mmol) and the mixture was heated at 60° C. for 3 hours. The organic phase was decanted and the residue was extracted with ether. All the organic phases were combined, washed with water, dried and evaporated to yield a residue, which was crystallized from hexane-isopropyl ether to give N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]N-methylglycine ethyl ester (225 mg, 35%) as colorless crystals.

reactant | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)propionyl]-N-methylglycine ethyl ester | 1.7 mmol, 610 mg | C(C)OC(CN(C)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=O)=O | C15H15F3N2O3S
reactant | phosphorus pentasulfide | 1.7 mmol, 378 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-[3-(4,5,7-trifluorobenzothiazol-2-yl)-1-thioxopropyl]N-methylglycine ethyl ester | 225 mg, 35% | C(C)OC(CN(C)C(CCC=1SC2=C(N1)C(=C(C=C2F)F)F)=S)=O | C15H15F3N2O2S2
